US06888032B2
Naphthalene-1-carbonitrile
A Schlenk tube was charged with NaCN (95 mg, 1.94 mmol), CuI (31 mg, 0.16 mmol, 10 mol %), and KI (54 mg, 0.33 mmol, 20 mol %), briefly evacuated and backfilled with argon three times. Anhydrous toluene (1.2 mL), N,N′-dimethylethylenediamine (175 μL, 1.64 mmol), and 1-bromonaphthalene (225 μL, 1.62 mmol) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 130° C. for 24 h. The resulting suspension was allowed to reach room temperature, diluted with 30% aqueous ammonia (2 mL) and extracted with ethyl acetate (4×2 mL). The combined organic phases were dried over MgSO4, concentrated, and the residue was purified by flash chromatography on silica gel (hexane/ethyl acetate 20:1) to provide the desired product as a pale yellow solid (234 mg, 94% yield). Mp 35-36° C. (lit. 37° C., See Blum, J.; Oppenheimer, E.; Bergmann, E. J. Am. Chem. Soc. 1967, 89, 2338). 1H NMR (400 MHz, CDCl3, J values are reported in Hz, lit. See Abraham, R. J.; Reid, M. Magn. Reson. Chem. 2000, 38, 570): δ 8.27 (d, J=8.4, 1H), 8.11 (d, J=8.3, 1H), 7.96 (d, J=8.1, 1H), 7.94 (dd, J=7.2, J=1.1, 1H), 7.73 (ddd, J=8.3, J=6.9, J=1.34, 1H), 7.65 (ddd, J=8.3, J=7.1, J=1.2, 1H), 7.55 (dd, J=8.3, J=7.1, 1H); 13C NMR (100 MHz, CDCl3): 133.7, 133.2, 133.1, 132.8, 129.1, 129.0, 128.0, 125.6, 125.4, 118.3, 110.6; IR (neat, cm−1): 2222, 1604, 1513, 1376, 855, 802, 772, 684, 451. Anal. Calcd. for C11H7N: C, 86.25; H, 4.61; N, 9.14. Found: C, 86.04; H, 4.61; N, 9.05.

reactant | NaCN | 1.94 mmol, 95 mg | [C-]#N.[Na+]
reactant | toluene | 1.2 mL | C1(=CC=CC=C1)C | C7H8
reactant | N,N′-dimethylethylenediamine | 1.64 mmol, 175 μL | CNCCNC | C4H12N2
reactant | 1-bromonaphthalene | 1.62 mmol, 225 μL | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
solvent | ammonia | 2 mL | N | H3N
catalyst | CuI | 0.16 mmol, 31 mg | [Cu]I
product | Naphthalene-1-carbonitrile | 234 mg, 94% yield | C1(=CC=CC2=CC=CC=C12)C#N | C11H7N
